US05859007
2-(3-Benzo[d]isoxazol-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 390 mg (0.86 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 10 mL of DMF at 0° C. is added 1.03 mL (1.03 mmol, 1.2 equiv) of a 1.0M solution of NaN(TMS)2 in THF. The resulting solution is stirred 5 min, and a solution of 200 mg (0.94 mmol, 1.1 equiv.) of 3-bromomethyl benzo[d]isoxazole (Uno, H.; Kurokawa, M.; Natsuka, K.; Yamato, Y.; Nishimura, H. Chem. Pharm. Bull. 1976, 24, 632)in 1 mL of DMF is added. The resulting solution is stirred for 14 h at RT then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 2/1 as eluent followed by lyophilization in acetonitrile/H2O afforded 303 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ7.81 (d, 1H, J=7.8), 7.55-7.10 (m, 14H), 6.97 (m, 2H), 5.01 (m, 1H), 4.28 (m, 3H), 3.85 (m, 4H), 3.58 (dd, 1H, J=5.1, 16.6), 1.07 (d, 6H, J=6.6); low resolution MS (FAB)m/e 589 (MH+), 588 (M+), 424, 396; Anal. (C35H32N4O5) Calcd. C, 71.41; H, 5.48; N, 9.52 Found C, 71.48; H, 5.49; N, 9.47.

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.86 mmol, 390 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | NaN(TMS)2 | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-bromomethyl benzo[d]isoxazole | 0.94 mmol, 200 mg, 1.1 equiv. | BrCC1=NOC2=C1C=CC=C2 | C8H6BrNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Benzo[d]isoxazol-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 303 mg | O1N=C(C2=C1C=CC=C2)CC2C(N(C1=C(N(C2=O)CC(=O)N(C2=CC=C(C=C2)OC)C(C)C)C=CC=C1)C1=CC=CC=C1)=O | C35H32N4O5
